US07432299B2
(2S,4S)-4-(3-Chloro-phenoxy)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester
To a stirred solution of (2S,4R)-4-hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (CAS Reg 74844-91-0) (6.1 kg, 24.87 mol), 3-chlorophenol (3.52 kg, 27.39 mol) & triphenylphosphine (7.18 kg, 27.37 mol) in tert-butyl methyl ether (30.5L) at 0′C. was added diisopropylazodicarboxylate (5.53 kg, 27.35 mol) in tert-butyl methyl ether (15L) dropwise. The mixture was stirred overnight at 20′C. The reaction was filtered and the liquors washed with 0.5M sodium hydroxide (aq) (2×12.5L) & water (12.2L). The tert-butyl methyl ether solvent was replaced with n-heptane (42.7L) by atmospheric pressure distillation & cooled to crystallise crude product, which was collected by filtration (11.1 kg, 125% contaminated with ca 35% reduced diisopropyl dicarboxylate & triphenylphosphine oxide-corrected yield=86%).

reactant | (2S,4R)-4-hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 24.87 mol, 6.1 kg | COC(=O)[C@H]1N(C[C@@H](C1)O)C(=O)OC(C)(C)C | C11H19NO5
reactant | 3-chlorophenol | 27.39 mol, 3.52 kg | ClC=1C=C(C=CC1)O | C6H5ClO
reactant | triphenylphosphine | 27.37 mol, 7.18 kg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 27.35 mol, 5.53 kg | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | tert-butyl methyl ether | 30.5L | COC(C)(C)C | C5H12O
product | (2S,4S)-4-(3-Chloro-phenoxy)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | yield=86% | COC(=O)[C@H]1N(C[C@H](C1)OC1=CC(=CC=C1)Cl)C(=O)OC(C)(C)C | C17H22ClNO5
